US20010025049A1
Intermediate 1 2-Trifluoromethylquinolin-8-ol
A solution of 8-methoxy-2-trifluoromethylquinoline (10.0 g) in 48% hydrobromic acid (40 ml) was stirred at reflux overnight. The reaction mixture was poured into water (200 ml) and the pH adjusted to 12.5 using 46-48% sodium hydroxide solution. After extraction with dichloromethane (2×25ml) the aqueous layer was acidified to pH 5 .3 by the addition of 37% hydrochloric acid solution. The mixture was then extracted using dichloromethane (2×100 ml) and the combined organic extracts washed with water, dried over sodium sulfate, filtered and the solvent removed in vacuo to give the product (9.3 g) as a white solid.

reactant | 8-methoxy-2-trifluoromethylquinoline | 10.0 g | COC=1C=CC=C2C=CC(=NC12)C(F)(F)F | C11H8F3NO
reactant | water | 200 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrobromic acid | 40 ml | Br | BrH
product | 2-Trifluoromethylquinolin-8-ol | 9.3 g | FC(C1=NC2=C(C=CC=C2C=C1)O)(F)F | C10H6F3NO
